US06797726B1
In 3 mL of ethanol is dissolved 0.23 g of 2-(methyl{2-[2-(6-quinoxalinyl)ethoxy]ethyl}amino)-1-ethanol, to which is added 0.8 mL of 3.8 mol/L solution of dry hydrogen chloride in ethanol. The mixture is stirred at ambient temperature for one hour. By distilling off the solvent under reduced pressure, there is obtained 0.67 g of 2-(methyl{2-[2-(6-quinoxalinyl)-ethoxy]ethyl}amino)-1-ethanol trihydrochloride as an oily product.

reactant | 2-(methyl{2-[2-(6-quinoxalinyl)ethoxy]ethyl}amino)-1-ethanol | 0.23 g | CN(CCO)CCOCCC=1C=C2N=CC=NC2=CC1 | C15H21N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-(methyl{2-[2-(6-quinoxalinyl)-ethoxy]ethyl}amino)-1-ethanol trihydrochloride | 0.67 g | Cl.Cl.Cl.CN(CCO)CCOCCC=1C=C2N=CC=NC2=CC1 | InChI=1S/C15H21N3O2.3ClH/c1-18(7-9-19)8-11-20-10-4-13-2-3-14-15(12-13)17-6-5-16-14;;;/h2-3,5-6,12,19H,4,7-11H2,1H3;3*1H
